US07745641B2
In a similar manner to Step 1 of Example 16, 3,4-dichlorobenzoyl chloride (3.00 g, 14.3 mmol) was dissolved in dichloromethane (60 mL), and the solution was treated with cumylamine (2.30 mL, 15.7 mmol), triethylamine (3.00 mL, 21.5 mmol) and DMAP (175 mg, 1.43 mmol), followed by purification by slurry using chloroform to obtain 3,4-dichloro-N-(1-methyl-1-phenylethyl)benzamide (3.85 g, yield 88%).

reactant | 3,4-dichlorobenzoyl chloride | 14.3 mmol, 3.00 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | cumylamine | 15.7 mmol, 2.30 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | triethylamine | 21.5 mmol, 3.00 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | DMAP | 1.43 mmol, 175 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3,4-dichloro-N-(1-methyl-1-phenylethyl)benzamide | 3.85 g, yield 88% | ClC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1Cl | C16H15Cl2NO
